US04687768
Synthesis of 2-methylcyclobutane-1,1-diphosphonic acid
Using the procedure of Example I, tetraisopropyl methane diphosphonate was converted to tetraisopropyl 2-methyl cyclobutane-1,1 diphosphonate by reaction with 1,3 dibromobutane at 80° C. for 4 hours. 31P NMR (CDCl3) chemical shift 24.1 ppm.

reactant | tetraisopropyl methane diphosphonate | P(=O)(O)OP(=O)O.C(C)(C)C(C(C)C)(C(C)C)C(C)C
reactant | 1,3 dibromobutane | BrCCC(C)Br | C4H8Br2
product | 2-methylcyclobutane-1,1-diphosphonic acid | CC1C(CC1)(P(O)(=O)O)P(O)(=O)O | C5H12O6P2
